US07465795B2
4-amino-8-(2,3-dichlorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 2,3-dichlorophenyl boronic acid (185 mg, 0.97 mmol) were reacted to afford the title compound (99.8 mg, 83.1% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.52 (br, 1H), 7.96 (dd, J=7.6 Hz, J′=2.1 Hz, 1H), 7.66-7.78 (m, 2H), 7.53 (dd, J=6.3 Hz, J′=3.3 Hz, 1H), 7.28-7.35 (m, 2H), 3.45 (q, J=6.7 Hz, 2H), 1.64 (m, J=7.3 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H) MS APCI, m/z=375/377 (M+H) HPLC 2.19 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,3-dichlorophenyl boronic acid | 0.97 mmol, 185 mg | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
product | 4-amino-8-(2,3-dichlorophenyl)-N-propyl-cinnoline-3-carboxamide | 99.8 mg, 83.1% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C(=CC=C1)Cl)Cl)C(=O)NCCC | C18H16Cl2N4O
